US09303023B2
1-[3-(2,3-Dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine
To a round bottom flask was added 1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline (2.10 g, 7.70 mmol), Pd/C (210 mg) and MeOH (48 mL, degassed). The flask was evacuated and backfilled with H2 and the reaction mixture was stirred under H2-atmosphere at rt for 18 h. The reaction mixture was filtered over celite, washed with MeOH and the solvent was removed under reduced pressure to yield the title compound as a red oil. LC-MS conditions

reactant | 1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline | 7.70 mmol, 2.10 g | [N+](=O)([O-])C=1C=NN(C1)CCCN1CCC2=CC=CC=C12 | C14H16N4O2
catalyst | Pd/C | 210 mg | [Pd] | Pd
solvent | MeOH | 48 mL | CO | CH4O
product | 1-[3-(2,3-Dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine | N1(CCC2=CC=CC=C12)CCCN1N=CC(=C1)N | C14H18N4
